US05175153
α-Amino-3-Bromobenzeneacetonitrile, Monohydrochloride
A solution of 3-bromobenzaldehyde (18.5 g, 0.1 mol) is dissolved in methanol (15 ml) and stirred at room temperature as a solution of ammonium chloride (5.35 g, 0.1 mol) in water (12.5 ml) is added in one portion. After thirty minutes a solution of potassium cyanide (6.5 g, 0.1 mol) in water (12.5 ml) is added in one portion and the reaction stirred overnight. The mixture is then refluxed one hour, allowed to cool, and the separated oil extracted into diethyl ether and treated with an ethereal solution of hydrogen chloride to give a brown solid. This is recrystallized by dissolving in methanol (100 ml), diluting with diethyl ether (450 ml), and refrigerating the solution overnight. The solid obtained is filtered, washed with ether, and dried (3.5 g).

reactant | 3-bromobenzaldehyde | 0.1 mol, 18.5 g | BrC=1C=C(C=O)C=CC1 | C7H5BrO
reactant | ammonium chloride | 0.1 mol, 5.35 g | [Cl-].[NH4+]
reactant | potassium cyanide | 0.1 mol, 6.5 g | [C-]#N.[K+]
solvent | methanol | 15 ml | CO | CH4O
solvent | water | 12.5 ml | O | H2O
solvent | water | 12.5 ml | O | H2O
product | α-Amino-3-Bromobenzeneacetonitrile, Monohydrochloride | Cl.NC(C#N)C1=CC(=CC=C1)Br | InChI=1S/C8H7BrN2.ClH/c9-7-3-1-2-6(4-7)8(11)5-10;/h1-4,8H,11H2;1H
